US04243677
A stirred solution of 144.3 g (0.39 mole) of (3-methyl-2-butenyl)triphenylphosphonium cloride in 300 ml of methylene chloride, under nitrogen atmosphere, was cooled to 0° C. To this cold solution a solution of 84.2 g (0.39 mole) of sodium methoxide 25% in methanol was added dropwise at a rate to keep the reaction mixture temperature below 4° C. Upon complete addition (40 minutes) a solution of 50.4 g (0.45 mole) of 1,1,1-trifluoroacetone in 5 ml of methylene chloride was added dropwise at a rate to keep the reaction mixture temperature below 6° C. Upon complete addition (40 minutes) the reaction mixture was allowed to warm to ambient temperature and was then stirred for 18 hours. The reaction mixture was washed twice with 150 ml portions of water, then dried with magnesium sulfate. The mixture was filtered and the filtrate concentrated by distillation. Pentane was added to the pot residue to precipitate triphenylphosphine oxide. The mixture was filtered and the filtrate concentrated by distillation. Diglyme was added to the pot residue, and an additional amount of triphenylphosphene oxide was collected by filtration. The filtrate was fractionally distilled by a spinning band distilling system to give in sixteen fractions 14.2 g of 98% 2-methyl-5-trifluoromethyl-2,4-hexadiene; b.p. 122°-124° C. The nmr spectrum was consistent with the assigned structure.

reactant | (3-methyl-2-butenyl)triphenylphosphonium cloride | 0.39 mole, 144.3 g | [Cl-].CC(=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | sodium methoxide | 0.39 mole, 84.2 g | C[O-].[Na+]
reactant | 1,1,1-trifluoroacetone | 0.45 mole, 50.4 g | FC(C(=O)C)(F)F | C3H3F3O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-5-trifluoromethyl-2,4-hexadiene | 14.2 g, 98% | CC(C)=CC=C(C)C(F)(F)F | C8H11F3
